US04428958
Benzyl3-(2-benzylsulphinylethylidene)-7-oxo-4-oxa-1-azabicyclo [3,2,0]heptane-2-carboxylate
Benzyl3-(2-benzylthioethylidene)-7-oxo-4-oxa-1-azabicyclo [3,2,0]heptane-2-carboxylate (39.5 mg) was dissolved in methylene chloride (5 ml) and treated with m-chloroperbenzoic acid (19 mg) at 0° C. The solution was stirred at 0° C. for 1/2 hour and washed with 3% bicarbonate solution (3×5 ml). The solvent was evaporated and the gum chromatographed to yield the title product as a mixture of R and S sulphoxides (30 mg; 73%).

reactant | Benzyl3-(2-benzylthioethylidene)-7-oxo-4-oxa-1-azabicyclo [3,2,0]heptane-2-carboxylate | 39.5 mg | C(C1=CC=CC=C1)OC(=O)C1N2C(CC2OC1=CCSCC1=CC=CC=C1)=O | C22H21NO4S
reactant | m-chloroperbenzoic acid | 19 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Benzyl3-(2-benzylsulphinylethylidene)-7-oxo-4-oxa-1-azabicyclo [3,2,0]heptane-2-carboxylate | C(C1=CC=CC=C1)OC(=O)C1N2C(CC2OC1=CCS(=O)CC1=CC=CC=C1)=O | C22H21NO5S
